US05489592
(E) -3-[3-[2-fluoro-3-(trifluoromethyl)phenyl]-2-propenyl]-3,4-dihydro-4-oxo-1-phthalazineacetic acid
A solution of 183.6 g (2.185 mol) of sodium bicarbonate in 4.2 1 of water is rapidly added to a suspension of 474.4 g (1.092 mol) of ethyl (E) -3-[3-[2-fluoro-3-(trifluoromethyl)phenyl]-2-propenyl]-3,4-dihydro-4-oxo-1-phthalazineacetate in 4.2 1 of ethanol and heating is carried out for 2 h at reflux. A solution of 36.7 g (0.436 mol) of sodium bicarbonate in 800 ml of water is added and heating is carried out for 4 h 30 at reflux. 50 g of Norit are added and heating is carried out for a further 1 h at reflux. The mixture is filtered while hot through Hyflo and the ethanol is evaporated under vacuum. The residual aqueous phase is diluted with water to a volume of 10 l, cooled and acidified to pH=2 with 6N HCl (approximately 300 ml). The precipitate obtained is filtered, washed with water and dried under vacuum at 60° C. and then recrystallized from a hexane/ethyl acetate mixture to give a solid melting at 170°-172° C. Weight obtained: 382 g (Yd. 86%)

reactant | sodium bicarbonate | 2.185 mol, 183.6 g | C([O-])(O)=O.[Na+]
reactant | ethyl (E) -3-[3-[2-fluoro-3-(trifluoromethyl)phenyl]-2-propenyl]-3,4-dihydro-4-oxo-1-phthalazineacetate | 1.092 mol, 474.4 g | FC1=C(C=CC=C1C(F)(F)F)/C=C/CN1N=C(C2=CC=CC=C2C1=O)CC(=O)OCC | C22H18F4N2O3
reactant | ethanol | C(C)O | C2H6O
reactant | sodium bicarbonate | 0.436 mol, 36.7 g | C([O-])(O)=O.[Na+]
reactant | Norit | 50 g | C | CH4
solvent | water | 800 ml | O | H2O
product | (E) -3-[3-[2-fluoro-3-(trifluoromethyl)phenyl]-2-propenyl]-3,4-dihydro-4-oxo-1-phthalazineacetic acid | FC1=C(C=CC=C1C(F)(F)F)/C=C/CN1N=C(C2=CC=CC=C2C1=O)CC(=O)O | C20H14F4N2O3
